US05336778
Step E: 4-(4-Aminobenzyl)-3-n-butyl-5-(carbomethoxymethylthio)-4H-1,2,4-triazole
To a solution of 2.46 g (6.76 mmole) of 3 -n- butyl-5-(carbomethoxymethylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole in 32 ml of tetrahydrofuran stirred in an ice bath was added gradually over 15 minutes a solution of 15.2 g (67.6 mmole) of stannous chloride dihydrate in 19 ml of concentrated HCl. The ice bath was removed, and the mixture was stirred at room temperature for 1.5 hours. It was then poured into a vigrously stirred mixture of 68 ml of 50% NaOH and 270 g. of ice. This was rapidly extracted with 3×300 ml of ether. The combined ether extracts were washed with 150 ml of H2O, then dried (MgSO4), filtered, and concentrated to give 566 mg (25%) of a white waxy solid, homogeneous by TLC in 97:3 CHCl3 -iPrOH; mass spectrum (FAB) m/e 335 (M+1)+. This material was used directly in the next reaction.

reactant | 3 -n- butyl-5-(carbomethoxymethylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole | 6.76 mmole, 2.46 g | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])SCC(=O)OC | C16H20N4O4S
reactant | CHCl3 iPrOH | C(Cl)(Cl)Cl.CC(C)O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | HCl | 19 ml | Cl | ClH
product | 4-(4-Aminobenzyl)-3-n-butyl-5-(carbomethoxymethylthio)-4H-1,2,4-triazole | NC1=CC=C(CN2C(=NN=C2SCC(=O)OC)CCCC)C=C1 | C16H22N4O2S
